US04588740
A mixture of 22.0 g (0.105 mole) of 2-methyl-3-nitrophenylacetic acid and 25 cc of thionyl chloride was slowly heated to 75° and the copious evolution of gasses allowed to moderate. The temperature was raised and the solution was refluxed for 1 hour. The reaction was concentrated in vacuo. The residual straw-colored syrup was chased several times with dry toluene, diluted with 100 cc of dry toluene and added to a cool (10°) mixture of 13 g of sodium carbonate in 150 cc of water and 150 cc of toluene containing 14.5 cc (10.6 g, 0.12 mole) of di-n-propylamine with very slow stirring. After 30 minutes, the ice-bath was removed. Stirring was continued for one hour. An additional 0.5 g of solid sodium carbonate was added to the reaction. After 15 minutes, the organic phase was separated, washed with 5% aqueous sodium carbonate followed by 2N hydrochloric acid and, finally, water. The organic solution was dried over magnesium sulfate, concentrated in vacuo and pumped free of solvent to give 29.5 g of 2-methyl-3-nitrophenyl-N,N-di-n-propylacetamide as a straw-colored syrup.

reactant | 2-methyl-3-nitrophenylacetic acid | 0.105 mole, 22.0 g | CC1=C(C=CC=C1[N+](=O)[O-])CC(=O)O | C9H9NO4
reactant | thionyl chloride | 25 cc | S(=O)(Cl)Cl | Cl2OS
reactant | sodium carbonate | 13 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 0.12 mole, 150 cc, 10.6 g | C1(=CC=CC=C1)C | C7H8
reactant | di-n-propylamine | C(CC)NCCC | C6H15N
solvent | water | 150 cc | O | H2O
product | 2-methyl-3-nitrophenyl-N,N-di-n-propylacetamide | 29.5 g | CC1=C(C=CC=C1[N+](=O)[O-])CC(=O)N(CCC)CCC | C15H22N2O3
